US06982348B2
6) N-{(1RS,2SR)-2-(3-fluorophenyl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide
To a solution of (1RS,2SR)-2-amino-1-(3-fluorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol (448 mg, 1.24 mmol) in acetonitrile (20 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (234 mg, 1.24 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (357 mg, 1.86 mmol) and 1-hydroxybenzotriazole hydrate (190 mg, 1.24 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the objective substance (444 mg, 67%).

reactant | (1RS,2SR)-2-amino-1-(3-fluorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol | 1.24 mmol, 448 mg | NC(C(O)C1=CC(=CC=C1)F)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C17H16F5NO2
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 1.24 mmol, 234 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.86 mmol, 357 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.24 mmol, 190 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-{(1RS,2SR)-2-(3-fluorophenyl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | FC=1C=C(C=CC1)C(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)O | C29H26F5NO3
